US06288086B1
1-Butyl-4-[4-(4-chlorophenoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid ethyl ester was prepared according to the general method outlined in example 83 starting from [4-(4-chloro-phenoxy)-benzenesulfonyl]-acetic acid ethyl ester (6 g, 18.3 mmol) and butyl-bis-(2-chloro-ethyl)-amine (5.2 g, 22 mmol). Yield 3.3 g (38%); yellow oil; MS: 480 (M+H)+

reactant | [4-(4-chloro-phenoxy)-benzenesulfonyl]-acetic acid ethyl ester | 18.3 mmol, 6 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)=O | C16H15ClO5S
reactant | butyl-bis-(2-chloro-ethyl)-amine | 22 mmol, 5.2 g | C(CCC)N(CCCl)CCCl | C8H17Cl2N
product | 1-Butyl-4-[4-(4-chlorophenoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCN(CC1)CCCC)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C24H30ClNO5S
